US05252536
Preparation of 6-Amino-5-fluoro-2-indolinone
A mixture of 10% Pd on carbon (2.44 g, 10% by weight), methyl (5-fluoro-2,4-dinitrophenyl)acetate (24.4 g, 93.8 mmol), ethylene glycol dimethyl ether (100 mL) and ethanol (100 mL) is hydrogenated on a Parr hydrogenator for 11/2 hours. After the uptake of 47-48 psi, the reaction mixture is removed from the hydrogenator. The catalyst is filtered and the filtrate is concentrated in vacuo to give a dark oil. The oil is diluted with 1M hydrochloric acid, heated at reflux for 20 minutes, cooled to room temperature and the pH is adjusted to 8 with 3N sodium hydroxide solution. The pH adjusted solution is extracted with ethyl acetate and the combined organic extracts are dried and concentrated in vacuo to give the title product as a light brown solid (13.2 g, mp 185°-187° C. dec) which is identified by 1H NMR spectral analysis.

reactant | methyl (5-fluoro-2,4-dinitrophenyl)acetate | 93.8 mmol, 24.4 g | FC=1C(=CC(=C(C1)CC(=O)OC)[N+](=O)[O-])[N+](=O)[O-] | C9H7FN2O6
reactant | ethylene glycol dimethyl ether | 100 mL | COCCOC | C4H10O2
reactant | ethanol | 100 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | hydrochloric acid | 1M | Cl | ClH
catalyst | Pd on carbon | 2.44 g | [Pd] | Pd
product | 6-Amino-5-fluoro-2-indolinone | 13.2 g | NC1=C(C=C2CC(NC2=C1)=O)F | C8H7FN2O
